Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ACE Inhibitors / Aleve / aspirin / codeine / lisinopril / 
morphine / Motrin / Percocet / shellfish derived / tramadol / 
Keflex
 
Attending: ___
 
Chief Complaint:
chest pain, difficulty swallowing
 
Major Surgical or Invasive Procedure:
EGD ___

 
History of Present Illness:
___ with PMH of HTN and hypothyroidism who presented to outside
hospital with chest pain and difficulty swallowing found to have
a food bolus with potential microperforation of the mid 
esophagus
on CT scan. 

She states that she was eating an "overcooked" hamburger on ___
when she swallowed a large bite and was unable to get the food
down.  It now feels stuck in her throat, causing her pain and
discomfort. She was initially able to swallow liquids, but this
is becoming increasingly difficult. She had a CT at an outside
hospital which showed micro perf in esophagus, for which she
received Ceftriaxone and was given glucagon with no improvement.
She was referred to ___ for further management. She states she
still having mild chest pain and difficulty swallowing, but has
had no acute worsening. She denies fevers, chills, nausea,
vomiting, diarrhea, change in appetite.
 
Past Medical History:
HTN
Hypothyroidism
Dementia
Arthritis
 
Social History:
___
Family History:
Not pertinent to this admission.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
========================
VS: BP 182 / 87 HR 64 RR 16 SpO2 99% on Ra 
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM, uvula midline
NECK:  no LAD, no palpable masses
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing. Mild 1+ peripheral edema of
the left lower extremity
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities, oriented to person but
not to place or time
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
=========================
VS: Temp: 97.5 PO BP: 174/88 HR: 63 O2 sat: 99% 
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM, uvula midline
NECK:  no LAD, no palpable masses
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing. Mild 1+ peripheral edema of
the left lower extremity
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities, oriented to person but
not to place or time
DERM: warm and well perfused, no excoriations or lesions, no
rashes

 
Pertinent Results:
ADMISSION LABS
==============
___ 08:15PM BLOOD WBC-11.9* RBC-4.64 Hgb-14.1 Hct-43.3 
MCV-93 MCH-30.4 MCHC-32.6 RDW-12.5 RDWSD-42.9 Plt ___
___ 08:15PM BLOOD Neuts-68.3 ___ Monos-7.3 Eos-1.2 
Baso-0.5 Im ___ AbsNeut-8.09* AbsLymp-2.64 AbsMono-0.87* 
AbsEos-0.14 AbsBaso-0.06
___ 08:15PM BLOOD ___ PTT-28.6 ___
___ 08:15PM BLOOD Glucose-113* UreaN-17 Creat-0.8 Na-140 
K-4.2 Cl-101 HCO3-22 AnGap-17
___ 08:26PM BLOOD Lactate-1.7

IMAGING:
=======
___ CT CHEST W PO CONTRAST (ESOPHAGRAM)
IMPRESSION:
1. Although mildly limited by streak artifact from the oral 
contrast agent, impacted esophageal food bolus is grossly 
unchanged extending from the level of the thoracic inlet to the 
carina without evidence of esophageal perforation or 
obstruction.
2. Cholelithiasis without evidence of cholecystitis.

___ CT CHEST
1. Dense oral contrast is present in the esophagus from 
approximately the 
level of the thoracic inlet to the carina, and small residual 
fluid bolus 
difficult to exclude at this level.  Oral contrast passes into 
the stomach.  
No evidence of esophageal perforation or obstruction. 
2. Mild bibasilar interstitial edema. 
3. Cholelithiasis without evidence of cholecystitis. 
4. Nodular contour of the liver raises the possibility of 
cirrhotic change. 

DISCHARGE LABS
==============
___ 07:10AM BLOOD WBC-9.4 RBC-4.35 Hgb-13.5 Hct-40.4 MCV-93 
MCH-31.0 MCHC-33.4 RDW-12.6 RDWSD-42.6 Plt ___
___ 07:10AM BLOOD Glucose-103* UreaN-13 Creat-0.8 Na-142 
K-3.9 Cl-101 HCO3-26 AnGap-15
___ 07:10AM BLOOD ALT-12 AST-16 LD(LDH)-167 AlkPhos-87 
TotBili-0.5
___ 07:10AM BLOOD Albumin-4.1 Calcium-9.5 Phos-3.7 Mg-1.___ with a PMH of hypothyroidism,hypertension who presented to 
an OSH with impacted esophageal food bolus and transferred to 
___ for further workup. 

ACUTE ISSUES:
===============
#Dysphagia
#Concern for esophageal microperforation
Impacted esophageal food bolus visualized on CT esophagram. 
Initial concern for microperforation at OSH, but no evidence of 
perforation or obstruction on CT scan at ___. Thoracics were 
made aware of the patient, but there was no need for urgent 
surgery. Upon arrival to floor, patient reported that symptoms 
had resolved entirely. GI was consulted and performed an upper 
endoscopy, which showed food bolus in the esophagus 
(nonobstructive). This was gently pushed into the stomach and no 
other abnormalities were noted to explain the patient's 
symptoms. The patient was able to eat after the procedure 
without dysphagia or frank aspiration. 

#Bacteremia
Blood cultures from the ED grew gram positive cocci in pairs and 
clusters. She was started on vancomycin but this was 
discontinued as she was afebrile, had a resolved leukocytosis, 
and appeared clinically well. Therefore, her bacteremia was 
likely a contaminant. Cultures speciated to Coag negative staph 
which is c/w contaminant.

#Leukocytosis:
No localizing symptoms, afebrile. Likely reactive in the setting 
of food bolus. This resolved by day of discharge.

CHRONIC ISSUES:
===============
#Hypertension:
Blood pressures elevated to 160s-180s, which appears to be 
baseline. Denies changes in vision, headache. Continued 
Amlodipine 10mg daily 

#Peripheral edema:
Per OSH records, BNP was 1114, but the patient has no history of 
heart failure. She was breathing comfortably on room air. She 
was continued on her home Lasix 20mg PO daily. 

#Hypothyroidism:
Continued Synthroid 75 mcg daily

#Bladder spasm:
Continued Oxybutynin 2.5mg BID while in house (Oxybutynin ER not 
on formulary)

#Confusion
Patient confused about location and time on admission. Possible 
component mild cognitive impairment vs early dementia. Able to 
relate key elements of history and longterm memory intact. She 
is able to state that she wants to go home and return to her 
daily
schedule.

TRANSITIONAL ISSUES
-------------------
[] Consider echocardiogram as an outpatient (BNP elevated during 
this admission).
[] Follow up on liver nodularity seen on CT scan.
[] Follow up with GI regarding swallowing issues, consider 
esophageal motility study.
[] Encourage small meals and provide mechanical soft diet.
[] follow up surveillance blood cultures
[] Monitor for infectious symptoms given bacteremia 

#CODE: Full (presumed)
___ ___ @ ___.
#CONTACT: Niece, ___ (HCP) h. ___ 
___

Billing: greater than 30 minutes spent on discharge counseling 
and coordination of care.
 
Medications on Admission:
1. Acetaminophen 1000 mg PO BID 
2. amLODIPine 10 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Senna 8.6 mg PO QHS constipation 
5. Furosemide 20 mg PO DAILY 
6. Levothyroxine Sodium 75 mcg PO DAILY 
7. Vitamin D3 (cholecalciferol (vitamin D3)) 1,000 unit oral 
DAILY 
8. oxybutynin chloride 5 mg oral DAILY 
9. Salonpas (methyl salicylate-menthol) ___ % topical DAILY 
10. Hydrocortisone Cream 1% 1 Appl TP DAILY:PRN itching 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO BID  
2.  amLODIPine 10 mg PO DAILY  
3.  Docusate Sodium 100 mg PO BID  
4.  Furosemide 20 mg PO DAILY  
5.  Hydrocortisone Cream 1% 1 Appl TP DAILY:PRN itching  
6.  Levothyroxine Sodium 75 mcg PO DAILY  
7.  oxybutynin chloride 5 mg oral DAILY  
8.  Salonpas (methyl salicylate-menthol) ___ % topical DAILY  
9.  Senna 8.6 mg PO QHS constipation  
10.  Vitamin D3 (cholecalciferol (vitamin D3)) 1,000 unit oral 
DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses: 
#Dysphagia
#Impacted food bolus in esophagus
#Bacteremia (may be contaminant)

Secondary Diagnoses:
#Hypertension
#Hypothyroidism
#Bladder spasm

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms ___,

You presented to ___ because you felt like food 
was stuck in your throat.

-While in the hospital, you had a CT scan which showed that 
there was food in your esophagus (swallowing tube).
-You had a procedure where a camera was inserted into your 
swallowing tube. The food that was stuck was pushed into your 
stomach. 
-Your symptoms improved.

We advise that from now on, you take smaller bites and chew your 
food thoroughly before swallowing.

After leaving the hospital, make sure to follow up with your 
doctors in ___.

We wish you the best,

Your ___ medicine team
 
Followup Instructions:
___